US06436966B1
2-Bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone Hydrobromide
1-(4-Methoxyphenyl)-2-(3-pyridyl)ethanone (6.85 g) was dissolved in acetic acid (36 mL), bromine (1.7 mL) was added to the solution and the resulting mixture was stirred at 80° C. for 3 h. After the mixture was cooled with ice-water, the crude crystalline mass was collected by filtration. The crude crystalline was recrystallized from ethanol-ethyl ether to afford the title compound (10.4 g, yield 89%).

reactant | 1-(4-Methoxyphenyl)-2-(3-pyridyl)ethanone | 6.85 g | COC1=CC=C(C=C1)C(CC=1C=NC=CC1)=O | C14H13NO2
reactant | bromine | 1.7 mL | BrBr | Br2
solvent | acetic acid | 36 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone Hydrobromide | 10.4 g, yield 89% | Br.BrC(C(=O)C1=CC=C(C=C1)OC)C=1C=NC=CC1 | InChI=1S/C14H12BrNO2.BrH/c1-18-12-6-4-10(5-7-12)14(17)13(15)11-3-2-8-16-9-11;/h2-9,13H,1H3;1H
